Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___ U/S guided left pelvic mass biopsy
attach
 
Pertinent Results:
Admission labs:
===============
___ 10:05PM BLOOD WBC-9.7 RBC-3.84* Hgb-11.3 Hct-36.2 
MCV-94 MCH-29.4 MCHC-31.2* RDW-13.2 RDWSD-45.2 Plt ___
___ 10:05PM BLOOD Neuts-72.2* Lymphs-18.4* Monos-6.8 
Eos-1.2 Baso-1.0 Im ___ AbsNeut-7.01* AbsLymp-1.79 
AbsMono-0.66 AbsEos-0.12 AbsBaso-0.10*
___ 10:48PM BLOOD ___ PTT-28.8 ___
___ 10:05PM BLOOD Glucose-115* UreaN-17 Creat-0.6 Na-143 
K-4.3 Cl-111* HCO3-24 AnGap-8*
___ 10:05PM BLOOD ALT-22 AST-20 AlkPhos-60 TotBili-0.2
___ 10:23PM BLOOD Lactate-1.8

Imaging: 
========
___ ultrasound:
1. 5.7 cm left pelvic mass with internal vascularity compressing 
the adjacent left external iliac vein and artery.  Additional 
1.0 cm mass with internal vascularity in the left groin adjacent 
to the left common femoral vein and greater saphenous vein 
junction, likely an abnormal lymph node.
2. Deep venous thrombosis within the left external iliac vein.
 
___ CT Abd/Pelvis:
1. 5.5 x 6.1 x 5.5 cm mass, probably nodal conglomerate, in the 
left-sided pelvis extending to the inguinal area encasing the 
left external iliac vein.
Lack of flow in the left external iliac artery may be secondary 
to extrinsic compression from the mass or thrombus. There is 
nonocclusive thrombus in the left common femoral vein and 
visualized proximal femoral vein. Left external iliac artery is 
encased by the mass although patent. Additional nodal 
conglomerate in the retroperitoneum and prominent mesenteric and 
left inguinal lymph nodes are also noted. Overall findings are 
highly suspicious for a neoplastic process including lymphoma.
2. No IVC thrombus.
3. Thickened endometrium for patient's age. Further 
characterization can be performed with pelvic ultrasound.
4. Abnormally position small and large bowels, most likely 
representing congenital mild rotation.

___ CT head
There is no evidence of large territory 
infarction,hemorrhage,edema,or mass.  There is prominence of the 
ventricles and sulci suggestive of involutional changes.  
Bilateral carotid siphon calcifications are noted.
No fracture.  The visualized portion of the paranasal sinuses, 
mastoid air cells, and middle ear cavities are clear.  The 
visualized portion of the orbits are normal.
1. No acute intracranial process.  Please note that MRI is more 
sensitive for evaluation of intracranial masses.

___ CT chest
BASE OF NECK: The visualized base of the neck is unremarkable.
THORACIC LYMPH NODES: Supraclavicular, axillary, mediastinal, 
and hilar lymph nodes are not pathologically enlarged.
CARDIO-MEDIASTINUM: The thoracic aortic is normal in caliber 
with mild atherosclerotic calcification.  The pulmonary arteries 
are normal caliber. The heart is not enlarged. There is no 
pericardial effusion or wall thickening.
AIRWAY: The airways are patent to the segmental level.
LUNGS: There are bilateral lung apical scarring.  There is a 
right lung apex 2 mm solid nodule (series 5, image 44).  There 
is a right upper lobe 3 mm nodule (series 5, image 97).  There 
is a right upper lobe 1 mm nodule (series 5, image 123).  There 
is a right lower lobe 5 mm nodule (series 5, image 177).  There 
is a right lower lobe 5 mm nodule (series 5, image 141).  There 
is left inferior lingular and left base linear atelectasis.  
There is a left lower lobe 2 cm cyst (series 5, image 194).  
There is no pleural effusion or pleural thickening.
BONES: There multiple lucent lesions involving the thoracic 
spine T2, T3 and T5 likely representing hemangioma.
SOFT TISSUE: The chest wall soft tissue is grossly unremarkable.
UPPER ABDOMEN: There is contrast material visualized in the 
partially visualized gallbladder.  The partially visualized 
liver, spleen, pancreas, adrenal glands and bilateral kidneys 
are grossly unremarkable.
IMPRESSION: 
1.  No evidence of pulmonary embolism.
2.  Multiple small lung nodules with detailed description as in 
above. Follow-up in 3 months is recommended.
RECOMMENDATION(S):  Multiple small lung nodules with detailed 
description as in above.  Follow-up in 3 months is recommended.

___ MRI L-spine:
IMPRESSION: 
1. No evidence of acute fracture or metastatic disease.
2. Multilevel degenerative changes of the spine as described 
above without severe spinal canal or neural foraminal narrowing.
3. Multiple perineural cysts of varying sizes at several neural 
foramina.

Procedures:
-___ U/S guided left pelvic mass biopsy

Pathology: 
-___ Tissue pathology: lymph node for heme: positive for 
diffuse large B cell lymphoma

Discharge Labs:
===============
___ 06:16AM BLOOD WBC-10.0 RBC-3.65* Hgb-10.9* Hct-33.8* 
MCV-93 MCH-29.9 MCHC-32.2 RDW-13.2 RDWSD-45.2 Plt ___
___ 06:16AM BLOOD ___ PTT-73.6* ___
___ 06:16AM BLOOD Glucose-98 UreaN-17 Creat-0.7 Na-141 
K-4.6 Cl-103 HCO3-27 AnGap-11
___ 06:16AM BLOOD Calcium-9.5 Phos-4.2 Mg-2.___ year old female with a PMH of hypothyroidism who presented 
with LLE swelling, found to have L external iliac vein DVT due 
to left-sided pelvic mass that is encasing blood vessels on that 
side. Underwent ultrasound-guided biopsy on ___ and results 
were consistent with DLBCL, germinal center type.

# Left pelvic mass:
Found to have 5.5 X 6.1 X 5.5cm pelvic mass, suspected 
conglomerate of lymph nodes. CT Abdomen also showed an 
additional nodal conglomerate in the retroperitoneum, and 
probable shotty lymphadenopathy in the periportal region. There 
were also prominent mesenteric and left inguinal lymph nodes. CT 
Chest revealed multiple non-specific pulmonary nodules but no 
evidence of lymphadenopathy in the chest.
She underwent biopsy of the pelvic mass. Results were consistent 
with DLBCL, germinal center subtype. Chromosome analysis was not 
possible since the culture set up did not produce mitotic cells. 
However, FISH detected and IGH/BCL2 gene rearrangement and an 
extra copy of the MYC gene. Immunophenotyping was unable to be 
performed due to inadequate tissue.
She remained stable with no evidence of tumor lysis. She was 
seen by the ___ team, who recommended transfer to the ___ 
service to start R-CHOP chemotherapy. She and her family elected 
to transfer to ___ for a second opinion and to pursue further 
treatment.
Pre-treatment TTE was obtained and revealed LVEF of 61%, mild 
symmetric LVH, mild-moderate aortic regurgitation, mild 
tricuspid regurgitation, and normal estimated pulmonary artery 
systolic pressures.

# Left external iliac vein and femoral vein DVT: symptomatic 
with LLE swelling and distal LLE discomfort along with some leg 
and foot numbness. DVT felt to be secondary to vascular 
compression from mass.
Initiated on heparin drip. She had gradual improvement in 
swelling and discomfort after starting systemic anticoagulation. 
Ultimately was transitioned to lovenox prior to discharge (first 
dose on ___ at 1330).

# Hypothyroidism: continue home synthroid

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- found to have thickened endometrium for patient's age on CT, 
needs pelvic US. 
- also found to have malrotation of the small and large bowel 
without obstruction, outpatient surgical consultation 
recommended 
- multiple pulmonary nodules, needs follow up imaging in three 
months
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 50 mg SC Q12H  
2.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary:
LLE DVT
Diffuse large B cell lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in with swelling in your leg. We found that you had a 
blood clot in your leg as well as a mass in your pelvis that was 
compressing your vein. You had a biopsy of the mass that showed 
diffuse large B cell lymphoma. You are now going to ___ to 
pursue treatment there.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!

 
Followup Instructions:
___